US05102914
B. Preparation of 2-Nitromethyl-3,4-dihydronaphthalene (XXXV)
A solution of β-tetralone (Aldrich Chemical Co., Milwaukee, Wis. 53233) (24.5 gm) and ethylenediamine (1.75 gm) in nitromethane (250 ml) was heated at 80° for 16 hours. The reaction mixture was filtered, and the filtrate was evaporated to give a red oil. This was partially purified by elution through a short silica column, eluting with hexane/EtOAc (9:1 v/v). The product was a pink oil (26 gm) which was not purified further but was taken directly for the next reaction.

reactant | β-tetralone | 24.5 gm | C1CC2=CC=CC=C2CC1=O | C10H10O
reactant | ethylenediamine | 1.75 gm | C(CN)N | C2H8N2
reactant | nitromethane | 250 ml | [N+](=O)([O-])C | CH3NO2
product | 2-Nitromethyl-3,4-dihydronaphthalene | [N+](=O)([O-])CC1=CC2=CC=CC=C2CC1 | C11H11NO2
